US07812043B2
Following general procedure A using 6-fluoroindole and R5X=cyclopropyl-methylbromide {2-[(1-Cyclopropylmethyl-6-fluoro-1H-indole-3-carbonyl)-amino]-thiazol-4-ylsulfanyl}-acetic acid ethyl ester was obtained. Ester hydrolysis: 110 mg (0.25 mmol) {2-[(1-cyclopropylmethyl-6-fluoro-1H-indole-3-carbonyl)-amino]-thiazol-4-ylsulfanyl}-acetic acid ethyl ester was dissolved in EtOH (3 mL) and NaOH (254 μL, 4N) was introduced. The mixture was heated to 80° C. for 1 hour before it was cooled to room temperature and pH was adjusted to 2 using 1 N HCl, where-upon a white precipitate was formed. The product was filtered off and dried to give 85 mg {2-[(1-Cyclopropylmethyl-6-fluoro-1H-indole-3-carbonyl)-amino]-thiazol-4-ylsulfanyl}-acetic acid.

reactant | {2-[(1-cyclopropylmethyl-6-fluoro-1H-indole-3-carbonyl)-amino]-thiazol-4-ylsulfanyl}-acetic acid ethyl ester | 0.25 mmol, 110 mg | C(C)OC(CSC=1N=C(SC1)NC(=O)C1=CN(C2=CC(=CC=C12)F)CC1CC1)=O | C20H20FN3O3S2
reactant | NaOH | 4N, 254 μL | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | EtOH | 3 mL | CCO | C2H6O
product | {2-[(1-Cyclopropylmethyl-6-fluoro-1H-indole-3-carbonyl)-amino]-thiazol-4-ylsulfanyl}-acetic acid | 85 mg | C1(CC1)CN1C=C(C2=CC=C(C=C12)F)C(=O)NC=1SC=C(N1)SCC(=O)O | C18H16FN3O3S2
